US05466687
4-[4-(2-Oxazolin-2-yl)benzylidene]piperidine
1.0 g of 4-[4-(2-oxazolin-2-yl) benzylidene]-1-tritylpiperidine in 20 ml of methylene chloride are treated slowly with 2 ml of trifluoroacetic acid at -10° C. After stirring for 1 hour at -10° C., the reaction mixture is poured into 150 ml of ice-water and immediately adjusted to pH 11.5 using 6N sodium hydroxide solution. After stirring for 10 minutes, it is extracted twice with 150 ml of ether, and the combined organic phases are washed, dried and evaporated down. The residue is purified by column chromatography on alumina (methylene chloride/methanol=40:1, v/v). 340 mg of the title compound of melting point 126° C. are obtained.

reactant | 4-[4-(2-oxazolin-2-yl) benzylidene]-1-tritylpiperidine | 1.0 g | O1C(=NCC1)C1=CC=C(C=C2CCN(CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C34H32N2O
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 6N | [OH-].[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 4-[4-(2-Oxazolin-2-yl)benzylidene]piperidine | 340 mg | O1C(=NCC1)C1=CC=C(C=C2CCNCC2)C=C1 | C15H18N2O
